US05155113
Preparation of 5-chloro-2,4-dihexanoyloxypyridine
The general procedure of Example 5 was followed using 2.00 g of 5-chloro-4-hydroxy-2-pyridone and 2.75 g of hexanoyl chloride to produce 1.22 g of the title compound in a yield of 26%.

reactant | 5-chloro-4-hydroxy-2-pyridone | 2.00 g | ClC=1C(=CC(NC1)=O)O | C5H4ClNO2
reactant | hexanoyl chloride | 2.75 g | C(CCCCC)(=O)Cl | C6H11ClO
product | 5-chloro-2,4-dihexanoyloxypyridine | 1.22 g, yield of 26% | ClC=1C(=CC(=NC1)OC(CCCCC)=O)OC(CCCCC)=O | C17H24ClNO4
